US07030267B2
To a solution of cyclohexanone (84.1 g, 1 mol) in dry benzene (100 mL) was added methyl cyanoacetate (99.1 g, 1 mol), ammonium acetate (10 g) and glacial acetic acid (20 mL). The reaction mixture was heated to reflux using Dean-Stark apparatus for 12 hours and allowed to cool to room temperature. Excess of solvents was removed in vacuo and the residue was dissolved in EtOAc (400 mL). The organic layer was washed with water, dried over sodium sulfate and evaporated to give cyano-cyclohexylidene-acetic acid methyl ester as pale yellow oil. Further purification of the pale yellow oil by distillation (10 mm Hg, 150–155° C.) gave product the title compound (110 g, 61%) as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 1.70–1.85 (m, 6H), 2.70 (t, 2H), 3.00 (t, 2H), 3.80 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 25.9, 28.6, 28.9, 31.9, 37.2, 52.8, 101.9, 115.8, 162.7, 180.8.

reactant | cyclohexanone | 1 mol, 84.1 g | C1(CCCCC1)=O | C6H10O
reactant | methyl cyanoacetate | 1 mol, 99.1 g | C(#N)CC(=O)OC | C4H5NO2
reactant | ammonium acetate | 10 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | cyano-cyclohexylidene-acetic acid methyl ester | COC(C(=C1CCCCC1)C#N)=O | C10H13NO2
